US06660744B1
A mixture of 1-(4-bromophenyl)-3-phenyl-2,5-pyrrolidinedione (2.00 g, 0.00602 mol), diboron pinacol ester (1.85 g, 0.00727 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.148 g, 0.000182 mol) and potassium acetate (1.784 g, 0.0182 mol) in N,N-dimethylformamide (40 mL) was heated at 80° C. under an atmosphere of nitrogen for sixteen hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (100 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:4) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield 3-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,5-pyrrolidinedione (0.78 g, 0.00207 mol) as a white solid.

reactant | 1-(4-bromophenyl)-3-phenyl-2,5-pyrrolidinedione | 0.00602 mol, 2.00 g | BrC1=CC=C(C=C1)N1C(C(CC1=O)C1=CC=CC=C1)=O | C16H12BrNO2
reactant | diboron pinacol ester | 0.00727 mol, 1.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000182 mol, 0.148 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0182 mol, 1.784 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,5-pyrrolidinedione | 0.00207 mol, 0.78 g | C1(=CC=CC=C1)C1C(N(C(C1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C22H24BNO4
